US04933355
2-(4-Methyl-1-piperazinyl)thiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 2.4 g of 2-(4-methyl-1-piperazinyl)thiazol-4-yl-methanol, 5.4 g of sulfur trioxide pyridine complex, 3.4 g of triethylamine, and 30 ml of dimethyl sulfoxide, giving the title compound as a pale brown oil.

reactant | 2-(4-methyl-1-piperazinyl)thiazol-4-yl-methanol | 2.4 g | CN1CCN(CC1)C=1SC=C(N1)CO | C9H15N3OS
reactant | triethylamine | 3.4 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 2-(4-Methyl-1-piperazinyl)thiazole-4-carbaldehyde | CN1CCN(CC1)C=1SC=C(N1)C=O | C9H13N3OS
